US06103732
Methyl 2-(2,6-dimethoxy-4-pyrimidyloxy)-3-methoxy-3,3-diphenyl-propionate
1.15 g (4 mmol) of methyl 2-hydroxy-3-methoxy-3,3-diphenyl-propionate were dissolved in 10 ml of dimethylformamide, and 276 mg (2 mmol) of potassium carbonate were added. Then 524 mg (3 mmol) of 2,6-dimethoxy-4-chloropyrimidine were added, and the mixture was stirred at 100° C. for 6 hours. It was then cautiously hydrolyzed with 10 ml of water, the pH was adjusted to 5 with citric acid and, after extraction with ethyl acetate, the organic phase was washed with water then dried over magnesium sulfate, and the solvent was removed by distillation. The oily residue (1.9 g) was chromatographed on silica gel, resulting in 617 mg of a slightly impure oil.

reactant | methyl 2-hydroxy-3-methoxy-3,3-diphenyl-propionate | 4 mmol, 1.15 g | OC(C(=O)OC)C(C1=CC=CC=C1)(C1=CC=CC=C1)OC | C17H18O4
reactant | potassium carbonate | 2 mmol, 276 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2,6-dimethoxy-4-chloropyrimidine | 3 mmol, 524 mg | COC1=NC(=CC(=N1)Cl)OC | C6H7ClN2O2
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | water | 10 ml | O | H2O
product | Methyl 2-(2,6-dimethoxy-4-pyrimidyloxy)-3-methoxy-3,3-diphenyl-propionate | COC1=NC(=CC(=N1)OC(C(=O)OC)C(C1=CC=CC=C1)(C1=CC=CC=C1)OC)OC | C23H24N2O6
